US07863442B2
4-Amino-2-methyl-10H-thieno-[2,3-b][1,5]benzodiazepine (50 g, 0.19 mol), N-methylpiperazine (125 mL, 2.5 vol) and 2-propanol (150 mL, 3 vol) were charged into a three-necked round bottom flask, equipped with reflux condenser, overhead stirrer, and thermometer. The reaction mixture was heated to reflux (about 100° C.) slowly under a nitrogen atmosphere and then refluxed overnight. The reaction mixture was allowed to cool slowly to below 40° C. (about 1 h), whereupon solid precipitates out. This precipitate was then isolated by filtration and the resulting light yellow solid was twice washed with 2-propanol (100 mL). The light yellow solid was stirred with water (4 volumes) for 2.5 hours, filtered, and the resulting solid, was washed twice with water (2 volumes) and dried to furnish olanzapine (47 g, 80%).

reactant | 4-Amino-2-methyl-10H-thieno-[2,3-b][1,5]benzodiazepine | 0.19 mol, 50 g | NC=1C2=C(NC3=C(N1)C=CC=C3)SC(=C2)C | C12H11N3S
reactant | N-methylpiperazine | 125 mL | CN1CCNCC1 | C5H12N2
solvent | 2-propanol | 150 mL | CC(C)O | C3H8O
product | olanzapine | 47 g, 80% | CC1=CC2=C(S1)NC=3C=CC=CC3N=C2N4CCN(CC4)C | C17H20N4S
